US07494962B2
The same experiment as in Example 4 was carried out, except for using 50 ml of THF instead of 50 ml of CPME. The resulting reaction mixture was analyzed by gas chromatography to confirm that 2-mesityl-2-propanol and α-methyl-2,4,6-trimethylstyrene were obtained in a yield of 44.6% and 33.1%, respectively.

reactant | 2-mesityl-2-propanol | C1(=C(C(=CC(=C1)C)C)C(C)(C)O)C | C12H18O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | α-methyl-2,4,6-trimethylstyrene | yield of 44.6% | CC(=C)C1=C(C=C(C=C1C)C)C | C12H16
